US04559407
A solution of 342 mg (0.70 mmol) of (1RS,2R,3R,7R,11R)-1-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2,3-epoxy-3,7,11,15-tetramethylhexadecanol in 1 ml of tert.butyl methyl ether was added dropwise at room temperature while stirring to a suspension of 51 mg (2 mmol) of lithium aluminium hydride in 10 ml of tert.butyl methyl ether and the mixture was subsequently stirred at room temperature for a further 1 hour. Then, 0.5 ml of water was added dropwise, the mixture was filtered through sodium sulphate, rinsed with ether and the filtrate was concentrated on a rotary evaporator. The thus-obtained crude produce (341 mg) was chromatographed on silica gel with toluene/ethyl acetate (2:1 parts by volume) and there were obtained 284 mg (84%) of (1RS,3R,7R,11R)-1-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-3,7,11,15-tetramethylhexadecane-1,3-diol, [α]D20 =+0.2° (c=2.16% in chloroform).

reactant | (1RS,2R,3R,7R,11R)-1-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2,3-epoxy-3,7,11,15-tetramethylhexadecanol | 0.70 mmol, 342 mg | COC1=C(C(=C(C(=C1C)C)OC)C)C([C@@H]1[C@](CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C)(C)O1)O | C31H54O4
reactant | lithium aluminium hydride | 2 mmol, 51 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.5 ml | O | H2O
solvent | tert.butyl methyl ether | 1 ml | COC(C)(C)C | C5H12O
solvent | tert.butyl methyl ether | 10 ml | COC(C)(C)C | C5H12O
product | (1RS,3R,7R,11R)-1-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-3,7,11,15-tetramethylhexadecane-1,3-diol | 284 mg, 84% | COC1=C(C(=C(C(=C1C)C)OC)C)C(C[C@@](CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C)(O)C)O | C31H56O4
